US06790844B2
(27-1) Ethyl 3-(4-Bromophenyl)-3-hydroxypropionate
Ethyl acetate (5.8 ml) was dissolved in tetrahydrofuran (80 ml), to which was then added 1.5M lithium diisoprypylamide/cyclohexane solution (43 ml) in nitrogen atmosphere at −70° C., and then the mixture was stirred for 15 min. 4-Bromobenzaldehyde (10.151 g)/tetrahydrofuran (10 ml) solution was added to the reaction mixture, which was then stirred for 30 min. A saturated aqueous solution of ammonium chloride was added thereto, and then it was extracted with in ethyl acetate. The resulting organic layer was washed with water, dried (over MgSO4) and evaporated. The resulting residue was purified by (NH) silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a yellow oil (11.906 g, yield; 80%).

reactant | Ethyl acetate | 5.8 ml | C(C)(=O)OCC | C4H8O2
reactant | lithium | 1.5M | [Li] | Li
reactant | 4-Bromobenzaldehyde | 10.151 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | cyclohexane | 43 ml | C1CCCCC1 | C6H12
product | Ethyl 3-(4-Bromophenyl)-3-hydroxypropionate | 11.906 g, yield; 80% | BrC1=CC=C(C=C1)C(CC(=O)OCC)O | C11H13BrO3
